US05721234
Preparation of 9-benzyloxy-6-bromo-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione
A mixture of 6-bromo-9-hydroxy-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione (0.1 g, 0.32 mmol) and sodium hydride (16 mg, 0.4 mmol) in dimethylformamide (1 mL) was stirred at 0° C. for 30 min, and then treated with benzyl bromide (70 mg, 0.4 mmol). The reaction mixture was stirred for 48 h and warmed to room temperature during that time. The solvent was removed by rotoevaporation, the residue triturated in ethyl acetate, and the solid collected by filtration and dried. CI MS m/e (M+1) 402, 404. H-NMR (200 MH2, dmso): 1H, s, 12.05; 1H, s, 11.95; 5H, m, 7.4-7.2; 1H, s, 7.05; 2H, s, 5.4; 1H, s, 4.75; 1H, m, 3.9; +ring protons.

reactant | 6-bromo-9-hydroxy-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione | 0.32 mmol, 0.1 g | BrC=1C2=C(C=3NC(C(NC3C1)=O)=O)CC(CC2)O | C12H11BrN2O3
reactant | sodium hydride | 0.4 mmol, 16 mg | [H-].[Na+]
reactant | benzyl bromide | 0.4 mmol, 70 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 9-benzyloxy-6-bromo-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione | C(C1=CC=CC=C1)OC1CCC2=C(C=3NC(C(NC3C=C2Br)=O)=O)C1 | C19H17BrN2O3
